US06664260B2
5-(2-methoxyethyl)-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetraazolo[1,5-a]quinoline (0.35 g, 0.80 mmol) was treated with triphenylphosphine (0.28 g, 1.20 mmol) using the general procedure described in Part B of example 35. The crude product was crystallized from ether to yield 90 mg of 2-(2-methoxyethyl)-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine as off-white crystals.

reactant | 5-(2-methoxyethyl)-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetraazolo[1,5-a]quinoline | 0.80 mmol, 0.35 g | COCCC=1N(C2=C(C=3N(C4=CC=CC=C24)N=NN3)N1)CCOCCCC=1C=NC=CC1 | C23H25N7O2
reactant | triphenylphosphine | 1.20 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-(2-methoxyethyl)-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 90 mg | COCCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCOCCCC=1C=NC=CC1 | C23H27N5O2
